### PR TITLE
[Merged by Bors] - chore(*): use `gcongr`&`positivity`

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/SelbergSieve.lean [hunk 1]
```diff
@@ -89,6 +89,21 @@ class SelbergSieve extends BoundingSieve where
...
+open Lean Meta Qq
+
+/-- Extension for the `positivity` tactic: `BoundingSieve.weights`. -/
+@[positivity BoundingSieve.weights _]
+def evalBoundingSieveWeights : PositivityExt where eval {u α} _zα _pα e := do
+  match u, α, e with
+  | 0, ~q(ℝ), ~q(@BoundingSieve.weights $i $n) =>
+    assertInstancesCommute
+    pure (.nonnegative q(BoundingSieve.weights_nonneg $n))
+  | _, _, _ => throwError "not ENNReal.toReal"
```
Comment (grunweg) [inline Mathlib/NumberTheory/SelbergSieve.lean:103]: Can you fix this, please?

File: Mathlib/NumberTheory/SelbergSieve.lean [hunk 2]
```diff
@@ -89,6 +89,21 @@ class SelbergSieve extends BoundingSieve where
 
 attribute [arith_mult] BoundingSieve.nu_mult
 
+namespace Mathlib.Meta.Positivity
+
+open Lean Meta Qq
+
+/-- Extension for the `positivity` tactic: `BoundingSieve.weights`. -/
+@[positivity BoundingSieve.weights _]
+def evalBoundingSieveWeights : PositivityExt where eval {u α} _zα _pα e := do
```
Comment (grunweg) [inline Mathlib/NumberTheory/SelbergSieve.lean:98]: @FLDutchmann This positivity extension looks good to me - would you like to give this another look? Two cargo-cult reviews is certainly good enough to maintainer merge.

**Review by grunweg — COMMENTED** [review]
Thanks! I'd like a second look on the positivity extension (out of principle, not because I doubt it's non-ideal). Otherwise, is a straightforward improvement.
maintainer delegate?

File: Mathlib/NumberTheory/SelbergSieve.lean (hunk 1 above)
Comment (sgouezel) [inline Mathlib/NumberTheory/SelbergSieve.lean:103]:
```suggestion
  | _, _, _ => throwError "not BoundingSieve.weights"
```

File: Mathlib/NumberTheory/Transcendental/Liouville/LiouvilleNumber.lean [hunk 3]
```diff
@@ -126,27 +126,21 @@ theorem remainder_lt' (n : ℕ) {m : ℝ} (m1 : 1 < m) :
...
       -- the first factors satisfy the inequality `sub_one_div_inv_le_two`
-      mul_le_mul_of_nonneg_right (sub_one_div_inv_le_two hm) (by positivity)
+      gcongr; exact sub_one_div_inv_le_two hm
     _ = 2 / m ^ (n + 1)! := mul_one_div 2 _
     _ = 2 / m ^ (n ! * (n + 1)) := (congr_arg (2 / ·) (congr_arg (Pow.pow m) (mul_comm _ _)))
-    _ ≤ 1 / m ^ (n ! * n) := by
+    _ ≤ 1 / (m ^ n !) ^ n := by
       -- [NB: in this block, I do not follow the brace convention for subgoals -- I wait until
       -- I solve all extraneous goals at once with `exact pow_pos (zero_lt_two.trans_le hm) _`.]
       -- Clear denominators and massage*
```
Comment (sgouezel) [inline Mathlib/NumberTheory/Transcendental/Liouville/LiouvilleNumber.lean:138]: remove this comment?

**Review by sgouezel — COMMENTED** [review]
bors d+

**Comment by urkud** [comment]
bors merge
